US07981886B2
6-{[trans-4-(4-methoxy-7-methyl-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one
Using 4-methoxy-7-methyl-benzothiazole (5 mmol; J. Org. Chem. (1984), 49, 997), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde (0.3 mmol) according to the same protocol as that described for example 1, steps 1.a to 1.c, the title compound was obtained as a yellowish solid (20 mg).

reactant | 4-methoxy-7-methyl-benzothiazole | 5 mmol | COC1=CC=C(C2=C1N=CS2)C | C9H9NOS
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 0.3 mmol | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
product | 6-{[trans-4-(4-methoxy-7-methyl-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one | COC1=CC=C(C2=C1N=C(S2)C(=O)[C@@H]2CC[C@H](CC2)NCC=2C=CC1=C(NC(CS1)=O)C2)C | C25H27N3O3S2
